US07923450B2
d) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[8-(3,4,5-trifluoro-phenyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-amine
The title compound was prepared from crude 2-[1-dimethylamino-meth-(Z)-ylidene]-6-(3,4,5-trifluoro-phenyl)-cyclohexanone (120 mg, 0.42 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (131 mg, 0.35 mmol) using in analogous manner the procedure described in example 45b). Obtained as a yellow solid (64 mg, 64%). MS ISP (m/e): 466.2 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.57 (s, 1H), 8.36 (s, 1H), 7.60 (m, 2H), 7.01-7.18 (m, 4H), 6.98 (s, 1H), 4.18 (m, 1H), 3.55 (s, 3H), 2.73 (m, 2H), 2.13 (s, 3H), 1.70-2.20 (m, 4H).

reactant | 2-[1-dimethylamino-meth-(Z)-ylidene]-6-(3,4,5-trifluoro-phenyl)-cyclohexanone | 0.42 mmol, 120 mg | CN(\C=C\1/C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O)C | C15H16F3NO
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.35 mmol, 131 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[8-(3,4,5-trifluoro-phenyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)C1=CC(=C(C(=C1)F)F)F | C25H22F3N5O
